US04429140
The same procedure as in Example 8 is repeated with the exception of using 26.8 g of sorbitol, 39.5 g of 2,4-dimethylbenzaldehyde, 50 ml of cyclohexane, 0.4 g of p-toluenesulfonic acid, 30 ml of anisole and 100 ml of ethanol. The reaction is conducted for 2.5 hours, giving a powdery reaction mixture, which is similarly after-treated to obtain di-(2,4-dimethylbenzylidene)sorbitol in a yield of 93% with a purity of 98%.

reactant | sorbitol | 26.8 g | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | 2,4-dimethylbenzaldehyde | 39.5 g | CC1=C(C=O)C=CC(=C1)C | C9H10O
reactant | p-toluenesulfonic acid | 0.4 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | anisole | 30 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | cyclohexane | 50 ml | C1CCCCC1 | C6H12
product | di-(2,4-dimethylbenzylidene)sorbitol | yield of 93% | CC1=C(C=C([C@H]([C@H]([C@@H]([C@H](C(O)=CC2=C(C=C(C=C2)C)C)O)O)O)O)O)C=CC(=C1)C | C24H30O6
